US04025635
A. Preparation of 2-acetylphenoxathiin
Phenoxathiin (22.9 g) and acetyl chloride (8.8 ml) were dissolved in carbon disulphide (120 ml) and mechanically stirred while aluminum chloride (15.5 g) was added in small portions. The red mixture was stirred for 2 hr. at room temperature, then boiled under reflux on the water bath for a further 221/4 hr. The mixture was cooled and poured on to ice and hydrochloric acid, and the precipitated product filtered off, washed with water, and recrystallised once from ethanol and twice from petroleum ether (b.p. 80°-100° C.) to give the product m.p. 112° C.

reactant | Phenoxathiin | 22.9 g | C1=CC=CC=2OC3=CC=CC=C3SC12 | C12H8OS
reactant | acetyl chloride | 8.8 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 15.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | carbon disulphide | 120 ml | C(=S)=S | CS2
solvent | water | O | H2O
product | 2-acetylphenoxathiin | C(C)(=O)C1=CC=2SC3=CC=CC=C3OC2C=C1 | C14H10O2S
